US09340498B2
To a solution of acetic anhydride (11.5 mL, 12.45 g, 0.122 mol) in anhydrous CH2Cl2 (100 mL) was added N,N-dimethyl-1,4-phenylenediamine (11.37 g; 83.5 mmol) portion-wise over 30 min at 0° C. The mixture was allowed to gradually warm to room temperature and stirred for 24 hours. The solvent was removed under high vacuum to obtain a black residue which was stirred with Et2O (20 mL) at room temperature. The suspension was filtered and the solid washed with Et2O (3×20 mL). The solid residue was dried under high vacuum to obtain the intermediate N-acetyl-N′,N′-dimethyl-1,4-phenylenediamine as a black solid (12.8 g, 86%) which was used in the next step without further purification.

reactant | acetic anhydride | 0.122 mol, 11.5 mL, 12.45 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | N,N-dimethyl-1,4-phenylenediamine | 83.5 mmol, 11.37 g | CN(C1=CC=C(C=C1)N)C | C8H12N2
reactant | Et2O | 20 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-acetyl-N′,N′-dimethyl-1,4-phenylenediamine | 12.8 g, 86% | C(C)(=O)NC1=CC=C(C=C1)N(C)C | C10H14N2O
